US04350817
4-Amino-1,2-Dihydro-1-Ethyl-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Hydrazide
A stirred mixture of 2 g. of 4-amino-1-ethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester in 20 ml. of ethanol containing 5 ml. of hydrazine was heated under reflux for 4 hours. The mixture was cooled and the insoluble material was collected. The filter cake was recrystallized from ethanol to produce 1.1 g. of product, m.p. 275°-277° C. dec.

reactant | 4-amino-1-ethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1N)CC)=O | C13H15N3O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Amino-1,2-Dihydro-1-Ethyl-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Hydrazide | NC1=C(C(N(C2=NC=CC=C12)CC)=O)C(=O)NN | C11H13N5O2
